US04410537
2-Hydroxy-6-methoxybenzaldehyde (16.875 g., 0.111 M), ethyl 5-bromopentanoate (23.25 g., 17.6 ml., 0.111 M), anhydrous potassium carbonate (16.5 g.), sodium iodide (0.675 g.) and 95% ethanol (150 ml.) were refluxed with stirring (16 hrs). The cooled reaction mixture was filtered and the solid washed well with ethanol. The filtrate was evaporated to dryness and the residue partitioned between ether and water. The ethereal layer was separated and washed with 2 N sodium hydroxide solution, water, dried (sodium sulphate) and evaporated. The residue was dissolved in 95% ethanol (300 ml.) and 0.66 N sodium hydroxide solution (450 ml.) and stirred at ambient temperature (4 hrs). The reaction mixture was evaporated to half volume and diluted with water. The mixture was extracted once with ether and the aqueous layer acidified with concentrated hydrochloric acid with cooling. The crystalline solid formed was filtered off and washed well with water. Recrystallisation from ethyl acetate-petrol gave 5-(2-formyl-3-methoxyphenoxy)pentanoic acid, m.p. 99°-101° C. (Found: C, 61.98; H, 6.58. C13H16O5 requires C, 61.89; H, 6.39%).

reactant | 2-Hydroxy-6-methoxybenzaldehyde | 0.111 M, 16.875 g | OC1=C(C=O)C(=CC=C1)OC | C8H8O3
reactant | ethyl 5-bromopentanoate | 0.111 M, 17.6 ml, 23.25 g | BrCCCCC(=O)OCC | C7H13BrO2
reactant | potassium carbonate | 16.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 0.675 g | [I-].[Na+]
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 5-(2-formyl-3-methoxyphenoxy)pentanoic acid | C(=O)C1=C(OCCCCC(=O)O)C=CC=C1OC | C13H16O5
